US07091356B2
3-(3-Cyclopentyloxy-4-methoxyphenyl)-N-hydroxy-3-(3-methylphthalimido)propionamide was prepared by the procedure of Example 1 from 3-(3-cyclopentyloxy-4-methoxyphenyl)-3-(4-methyl-1,3-dioxoisoindolin-2-yl)propanoic acid (5.44 g, 12.9 mmol), carbonyldiimidazole (2.19 g, 13.5 mmol) and hydroxylamine hydrochloride (1.16 g, 16.7 mmol) in THF (32 mL) to afford 3-(3-cyclopentyloxy-4-methoxyphenyl)-N-hydroxy-3-(3-methylphthalimido)propionamide as a white solid (5.33 g, 94.6%): mp, 187.5–189.5° C.; 1H NMR (DMSO-d6) δ 1.55–1.87 (m, 8H, C5H8), 2.61 (s, 3H, CH3), 3.12 (d, J=7.8 Hz, 2H, CH2), 3.70 (s, 3H, OCH3), 4.62–4.83 (m, 1H, OCH), 5.66 (t, J=7.8 Hz, 1H, CH), 6.90–7.10 (m, 3H, Ar), 7.52–7.80 (m, 3H, Ar), 8.79 (s, 1H, OH), 10.59 (s, 1H, NH); 13C NMR (DMSO-d6) δ 16.9, 23.5, 32.1, 34.2, 49.9, 55.5, 79.6, 112.1, 114.2, 119.7, 120.7, 127.8, 131.3, 131.6, 137.2, 146.7, 149.1, 166.0, 167.5, 168.3; Anal. Calcd. for C24H26N2O6: C, 65.74; H, 5.98; N, 6.39. Found: C, 65.63; H, 5.86; N, 6.24.

reactant | 3-(3-cyclopentyloxy-4-methoxyphenyl)-3-(4-methyl-1,3-dioxoisoindolin-2-yl)propanoic acid | 12.9 mmol, 5.44 g | C1(CCCC1)OC=1C=C(C=CC1OC)C(CC(=O)O)N1C(C2=CC=CC(=C2C1=O)C)=O | C24H25NO6
reactant | carbonyldiimidazole | 13.5 mmol, 2.19 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | hydroxylamine hydrochloride | 16.7 mmol, 1.16 g | Cl.NO
solvent | THF | 32 mL | C1CCOC1 | C4H8O
product | 3-(3-cyclopentyloxy-4-methoxyphenyl)-N-hydroxy-3-(3-methylphthalimido)propionamide | 5.33 g, 94.6% | C1(CCCC1)OC=1C=C(C=CC1OC)C(CC(=O)NO)N1C(C=2C(C1=O)=C(C=CC2)C)=O | C24H26N2O6
